US04350817
4-Amino-7-Chloro-1-Ethyl-1,2-Dihydro-2-Oxo-1,8-Naphthyridine-3-Carboxylic Acid Ethyl Ester
To a solution of 2.07 g. (0.09 g. atom) of sodium in 75 ml. of ethanol is added 14.4 g. (0.09 mole) of diethyl malonate. The solution is stirred at room temperature for 5 minutes and then 5.4 g. (0.03 mole) of 6-chloro-2-ethylaminonicotinonitrile is added. The mixture is heated under reflux for about 6 hours. The mixture is cooled and diluted with 75 ml. of water and acidified with conc. hydrochloric acid. The precipitate which forms is collected and air dried to give the title compound.

reactant | sodium | 0.09 g | [Na] | Na
reactant | diethyl malonate | 0.09 mole | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 6-chloro-2-ethylaminonicotinonitrile | 0.03 mole | ClC1=NC(=C(C#N)C=C1)NCC | C8H8ClN3
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | 4-Amino-7-Chloro-1-Ethyl-1,2-Dihydro-2-Oxo-1,8-Naphthyridine-3-Carboxylic Acid Ethyl Ester | C(C)OC(=O)C=1C(N(C2=NC(=CC=C2C1N)Cl)CC)=O | C13H14ClN3O3
